US05962479
(6-Chloro-2-methyl-5-nitro-pyrimidin-4-yl)-(1-ethyl-propyl)-amine
A mixture of 2-methyl-5-nitro-4,6-dichloro-pyrimidine (208 mg, 1.00 mmol) and 1-ethyl-propyl-amine (87 mg, 1.03 mmol) in 2 ml of dry THF was stirred at -78° C. for 4 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give a green oil. The oil was purified through silica gel column chromatography using chloroform to 1:1 hexane/chloroform as eluent to give the title compound (93 mg, 35%). 1H NMR (CDCl3) δ7.50 (brs, 1H), 4.29 (m, 1H), 2.51 (s, 3H), 1.4-1.8 (m, 4H), 0.92 (t, 6H) ppm.

reactant | 2-methyl-5-nitro-4,6-dichloro-pyrimidine | 1.00 mmol, 208 mg | CC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C5H3Cl2N3O2
reactant | 1-ethyl-propyl-amine | 1.03 mmol, 87 mg | C(C)C(CC)N | C5H13N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (6-Chloro-2-methyl-5-nitro-pyrimidin-4-yl)-(1-ethyl-propyl)-amine | 93 mg, 35% | ClC1=C(C(=NC(=N1)C)NC(CC)CC)[N+](=O)[O-] | C10H15ClN4O2
